Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:5]=[C:6]=[O:7],1.51880456556
[O:1][C@@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:11]([C:8]([C:5]([O:4])([H:6])[H:7])([H:9])[H:10])([H:12])[H:13],0.459697465869
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],1.5261211578600002
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],2.10757938699
[O:1]=[C:2]1[C:3][O:4][C:5]([H:6])[C:7]1([H:8])[H:9]>>[O:1][C:2](=[C:3]=[O:4])[C:7]([C:5][H:6])([H:8])[H:9],1.36373630333
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:7]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:8],5.59120356882
[H:1][O:2][C:3]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-1.50835123472
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.80737038505
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]1=[C:8]([H:9])[H:10],-0.403522279999
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.726155909108
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-8.60256766466
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],6.631090381059999
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.71908449309
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.96611160603
[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[O:3],-3.26234671504
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.87006617382
[C:7]([H:8])[O:9][H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.01173821238
[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:11]([H:12])([H:13])[H:14],4.66883661322
[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.72791984065
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.58292621392
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][O:6]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.87136279523
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3](=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.84439058316
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[O:12][H:13],5.242092830330001
[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.0501184429300015
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][O:2][C:3][H:4],3.56249749
[C:1][C:2]([H:3])([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.92500513641
[C:1][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[C:2]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-7.3840954385
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.8819902198700005
